US09167821B2
4-{4-[5-(2-Nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride (XII-6)
To a solution of tert-butyl 4-{4-[5-(2-nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (2.10 g) in dichloromethane was added dropwise, at 0° C., a 4 molar solution of hydrogen chloride (4.0 eq.) in 1,4-dioxane. The reaction mixture was stirred at 0° C. and then gradually warmed to room temperature. After stirring overnight, the solvent and excess hydrogen chloride were removed. This gave 4-{4-[5-(2-nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride (1.60 g).

reactant | tert-butyl 4-{4-[5-(2-nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 2.10 g | [N+](=O)([O-])C1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H26N4O5S
reactant | hydrogen chloride | 4.0 eq. | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-{4-[5-(2-Nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidinium chloride | [Cl-].[N+](=O)([O-])C1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1 | InChI=1S/C17H18N4O3S.ClH/c22-21(23)15-4-2-1-3-12(15)16-9-13(20-24-16)14-10-25-17(19-14)11-5-7-18-8-6-11;/h1-4,10-11,16,18H,5-9H2;1H
